US08017610B2
(1a) 3-Bromo-5-methoxyphenol
Commercially available 1-bromo-3,5-dimethoxybenzene (18.74 g, 86.3 mmol) was dissolved in 1-methyl-2-pyrrolidone (100 mL), and sodium thiomethoxide (6.74 g, 96.2 mmol) was added, followed by stirring at 100° C. for 3 hours under nitrogen atmosphere. The reaction solution was cooled to room temperature, 1N hydrochloric acid (200 mL) was added, and extraction was carried out with diethyl ether (500 mL). The organic layer was washed with saturated brine, and subsequently dried over sodium sulfate. The solvent was distilled off under reduced pressure, and the resulting residue was purified using silica gel column chromatography (elution solvent: ethyl acetate/hexane=20%-25%) to afford the desired compound (15.03 g, yield 86%) as a white solid.

reactant | 1-bromo-3,5-dimethoxybenzene | 86.3 mmol, 18.74 g | BrC1=CC(=CC(=C1)OC)OC | C8H9BrO2
reactant | sodium thiomethoxide | 96.2 mmol, 6.74 g | C[S-].[Na+]
reactant | hydrochloric acid | 1N, 200 mL | Cl | ClH
solvent | 1-methyl-2-pyrrolidone | 100 mL | CN1C(CCC1)=O | C5H9NO
product | 3-Bromo-5-methoxyphenol | 15.03 g, yield 86% | BrC=1C=C(C=C(C1)OC)O | C7H7BrO2
